US06583305B1
Direct synthesis of 1,1′-bis[dichlorophosphino]ferrocene (X) without isolation of intermediates
At room temperature, 40.69 g (0.2186 mol) of ferrocene in 400 ml of abs. hexane is charged in a vessel. A mixture of 342 ml (0.547 mol) of 1.60 M n-butyllithium solution in hexane and 82.0 ml (63.6 g, 0.547 mol) of abs. N,N,N′,N′-tetramethylethylenediamine is added dropwise at room temperature within 6 h. The mixture is allowed to stir at room temperature for 18 h. The supernatant is filtered off through an immersion frit, and the orange filtration residue is suspended in 400 ml of abs. THF. At −78° C., a solution of 95.0 ml (94.6g, 0.481 mol) of bis(diethylamino)chlorophosphine in 200 ml of abs. THF is added dropwise within 4 h. The mixture is allowed to thaw to room temperature and stirred for another 15 h. The solution, which has now a red-brown color, is cooled down to −78° C., and 390 ml of 5.6 M HCl in diethyl ether is added dropwise within 5 h. After warming up to room temperature, the solvent is distilled off completely, and the residue is taken up in 2 l of diethyl ether, and the solution filtrated from insolubles through a P4 frit with Celite 545® as a filtering aid. The clear filtrate is again completely freed from solvent. The red-brown solid is finally recrystallized from 200 ml of toluene/pentane at −20° C.. After drying in an oil pump vacuum, 52.82 g of a coarse-crystalline solid (0.136 mol, 62%) is obtained. Analytical results: appropriate (see Example 2).

reactant | ferrocene | 0.2186 mol, 40.69 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | n-butyllithium | 0.547 mol, 1.60 M, 342 ml | C(CCC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
reactant | bis(diethylamino)chlorophosphine | 0.481 mol, 95.0 ml, 94.6g | C(C)N(CC)P(Cl)N(CC)CC | C8H20ClN2P
reactant | HCl | 5.6 M, 390 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 1,1′-bis[dichlorophosphino]ferrocene | 0.136 mol, 52.82 g, 62% | ClP([C-]1C=CC=C1)Cl.[C-]1(C=CC=C1)P(Cl)Cl.[Fe+2] | InChI=1S/2C5H4Cl2P.Fe/c2*6-8(7)5-3-1-2-4-5;/h2*1-4H;/q2*-1;+2
